US09029391B2
[(1,1-dimethylethyl)oxy][4-(3,4-dimethylphenyl)-2-methyl-7-(2-methylpropyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]acetic acid
The title compound was prepared in two steps in a manner similar to that described in Example 171 from methyl 2-(7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-(tert-butoxy)acetate and isobutylzinc(II) bromide and was isolated as a white solid (11.7 mg, 37%) after reverse phase chromatography: 1H NMR (400 MHz, CHLOROFORM-d) δ=8.27 (s, 1 H), 7.42-7.22 (m, 3 H), 7.16-7.00 (m, 2 H), 5.35 (m, 1 H), 3.70 (s, 3 H), 2.61 (m, 2 H), 2.36 (m, 3 H), 2.32 (m, 3 H), 2.00-1.85 (m, 1 H), 1.07 (m, 9 H), 0.96-0.85 (m, 6 H); LC/MS (m/z) ES+=450 (M+1).

reactant | methyl 2-(7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-(tert-butoxy)acetate | BrC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)OC)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C25H28BrNO4
reactant | isobutylzinc(II) bromide | [Br-].C(C(C)C)[Zn+]
product | [(1,1-dimethylethyl)oxy][4-(3,4-dimethylphenyl)-2-methyl-7-(2-methylpropyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]acetic acid | CC(C)(C)OC(C(=O)O)C=1N(C(C2=CC(=CC=C2C1C1=CC(=C(C=C1)C)C)CC(C)C)=O)C | C28H35NO4
